US08476295B2
N-((1SR,4SR,7RS)-2-benzyl-2-azabicyclo[2.2.1]heptan-7-yl)-1H-indazol-5-amine, Compound 3.1.01
A solution of 1-(5-((1SR,4SR,7RS)-2-benzyl-2-azabicyclo[2.2.1]heptan-7-ylamino)-1H-indazol-1-yl)-2,2-dimethylpropan-1-one (the intermediate benzyl compound of Example 11, 175 mg, 0.44 mmol) in methanol (2.5 mL) was treated with potassium carbonate (72 mg, 0.52 mmol), and the mixture was stirred for 18 h. The mixture was partitioned between ethyl acetate and water, and the organic phase was dried over sodium sulfate and evaporated to a residue. Chromatography of the residue on silica gel afforded the title compound (70 mg, 50%). 1H NMR (CDCl3) δ 9.80 (br s, 1H), 7.88 (s, 1H), 7.39-7.21 (m, 6H), 6.92-6.85 (m, 2H), 3.80 (m, 1H), 3.63 (s, 1H), 3.16-3.12 (m, 2H), 2.40-2.37 (m, 1H), 2.04-1.96 (m, 2H), 1.85-1.76 (m, 2H), 1.60-1.40 (m, 2H)

reactant | 1-(5-((1SR,4SR,7RS)-2-benzyl-2-azabicyclo[2.2.1]heptan-7-ylamino)-1H-indazol-1-yl)-2,2-dimethylpropan-1-one | C(C1=CC=CC=C1)N1C2CCC(C1)C2NC=2C=C1C=NN(C1=CC2)C(C(C)(C)C)=O | C25H30N4O
reactant | potassium carbonate | 0.52 mmol, 72 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2.5 mL | CO | CH4O
product | N-((1SR,4SR,7RS)-2-benzyl-2-azabicyclo[2.2.1]heptan-7-yl)-1H-indazol-5-amine | 70 mg, 50% | C(C1=CC=CC=C1)N1C2CCC(C1)C2NC=2C=C1C=NNC1=CC2 | C20H22N4
